US07384963B2
2′-Methyl-N-methyl-N-(3-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-N-(3-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide and iodomethane using method L. NMR; δH [2H6]—DMSO 7.89,(1H, d), 7.76,(1H, s), 7.55-7.48,(5H, m), 7.27,(1H, t), 7.16-7.10,(2H, m), 7.00,(1H, b), 4.66-4.50,(2H, m), 2.89,(3H, m), 2.55,(3H, s), 2.32,(3H, s). LCMS; retention time 3.52 min, MH+ 412.

reactant | 2′-methyl-N-(3-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=CC(=CC=C1)C | C25H23N3O2
reactant | iodomethane | IC | CH3I
product | 2′-Methyl-N-methyl-N-(3-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)N(CC1=CC(=CC=C1)C)C | C26H25N3O2
